US04200641
A mixture of 6 parts of 1-(3-chloropropyl)-1,3-dihydro-3-(phenylmethyl)-2H-benzimidazol-2-one, 4.5 parts of 1-(diphenylmethyl)piperazine, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 20 hours with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2,2'-oxybispropane and 2-propanol. The salt is filtered off and crystallized from 2-propanone, yielding 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-3-(phenylmethyl)-2H-benzimidazol-2-one dihydrochloride; mp. 199.6° C.

reactant | 1-(3-chloropropyl)-1,3-dihydro-3-(phenylmethyl)-2H-benzimidazol-2-one | ClCCCN1C(N(C2=C1C=CC=C2)CC2=CC=CC=C2)=O | C17H17ClN2O
reactant | 1-(diphenylmethyl)piperazine | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-3-(phenylmethyl)-2H-benzimidazol-2-one dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(N(C2=C1C=CC=C2)CC2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C34H36N4O.2ClH/c39-34-37(31-19-10-11-20-32(31)38(34)27-28-13-4-1-5-14-28)22-12-21-35-23-25-36(26-24-35)33(29-15-6-2-7-16-29)30-17-8-3-9-18-30;;/h1-11,13-20,33H,12,21-27H2;2*1H
